US04576938
A mixture of 7β-amino-3-[(1-acetamido-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid (0.450 g, 1.21 mmol), triethylamine (0.245 mg, 2.42 mmol) and dichloromethane (10 ml) was stirred at room temperature for 10 minutes. To the mixture was added 1-benzotriazolyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetate (0.678 g, 1.21 mmol) and allowed to react at 5° C. for 17 hours. The dichloromethane was removed by evaporation. Water (10 ml) and triethylamine (0.5 ml) were added to the residue. The aqueous layer was separated, washed with ethyl acetate (5 ml) and adjusted to pH 3.5 with citric acid. Precipitated substance was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated. The residue was treated with ether and filtered to give pale yellow powder of 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[(1-acetamido-1H-tetrazol-5-yl)thiomethyl]-3-cephem- 4-carboxylic acid (0.790 g, 92%), mp 167°-170° C. (decomposition).

reactant | 7β-amino-3-[(1-acetamido-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 1.21 mmol, 0.450 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2NC(C)=O)C(=O)O)C1=O | C11H13N7O4S2
reactant | triethylamine | 2.42 mmol, 0.245 mg | C(C)N(CC)CC | C6H15N
reactant | 1-benzotriazolyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetate | 1.21 mmol, 0.678 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)ON1N=NC2=C1C=CC=C2)=N/OC | C31H24N6O3S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[(1-acetamido-1H-tetrazol-5-yl)thiomethyl]-3-cephem- 4-carboxylic acid | 0.790 g, 92% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2NC(C)=O)C(=O)O)C1=O)=N/OC | C36H32N10O6S3
